US09102591B2
2,4-dichloro-N-(3-cyclopropyl-2-(6-(difluoromethyl)pyridin-3-yl)propyl)benz amide
From 2,4-dichlorobenzoic acid and 3-cyclopropyl-2-(6-(difluoromethyl)pyridin-3-yl)propan-1-amine. LCMS (MH+): m/z=399.1, tR (minutes, Method G)=2.61

reactant | 2,4-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | 3-cyclopropyl-2-(6-(difluoromethyl)pyridin-3-yl)propan-1-amine | C1(CC1)CC(CN)C=1C=NC(=CC1)C(F)F | C12H16F2N2
product | 2,4-dichloro-N-(3-cyclopropyl-2-(6-(difluoromethyl)pyridin-3-yl)propyl)benz amide | ClC1=C(C(=O)NCC(CC2CC2)C=2C=NC(=CC2)C(F)F)C=CC(=C1)Cl | C19H18Cl2F2N2O
